US04963590
2-(2,6-Dimethylbenzoyloxy)-4,6-dinitrophenol
A mixture containing 2.0 g of 3,5-dinitrocatechol in 5 ml of 2,6-dimethylbenzoylchloride was heated for 20 hours in 100° C. The excess 2,6-dimethylbenzoylchloride was removed in high vacuum. The residue was purified in silicagel column. Yield 1.5 g (45%), yellow viscous oil, which was crystallized from petroleum ether, m.p. 163°-165° C.

reactant | 3,5-dinitrocatechol | 2.0 g | [N+](=O)([O-])C1=C(C(O)=CC(=C1)[N+](=O)[O-])O | C6H4N2O6
reactant | 2,6-dimethylbenzoylchloride | 5 ml | CC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO
product | 2-(2,6-Dimethylbenzoyloxy)-4,6-dinitrophenol | CC1=C(C(=O)OC2=C(C(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])O)C(=CC=C1)C | C15H12N2O7
